US06794397B2
N-(4-Ethoxy-2-nitrophenyl)-5-pyrimidinecarboxamide
The title compound was prepared from pyrimidine-5-carboxylic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 11.16 (s, 1H), 9.43 (s, 1H), 9.32 (s, 2H), 8.81 (d, J=9.3, 1H), 7.76 (d, J=3.0, 1H), 7.34-7.27 (m, 1H), 4.12 (q, J=6.9, 2H), 1.47 (t, J=6.9, 3H).

reactant | pyrimidine-5-carboxylic acid | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | N-(4-Ethoxy-2-nitrophenyl)-5-pyrimidinecarboxamide | C(C)OC1=CC(=C(C=C1)NC(=O)C=1C=NC=NC1)[N+](=O)[O-] | C13H12N4O4
